Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
MVA vs. tree
 
Major Surgical or Invasive Procedure:
___: Right elevation of skull fracture and wound washout

 
History of Present Illness:
This is a ___ year old gentleman who was an unrestrained driver 
in a single vehicle motor vehicle accident early in the morning 
of ___. Per reports the patient was driving on Route ___ under 
the influence of ETOH when he swerved off the road into a 
collection of trees and then back onto the road. There was 
significant damage to the car with the windshield being blown 
out and debris surround the patient. He did not require 
extubation at the scene but was
brought to ___ where he was intubated for airway protection. 
He had an obvious open right fronto-parietal skull fracture 
approximately 2cm in size as well as ___ inches of exposed bone 
with pieces of what appear to be wood infiltrating the open 
portion of the fracture. The patient was paralyzed upon arrival 
of neurosurgery but per reports both at the scene and upon 
arrival in the ER the patient was moving all extremities and 
opening his eyes but was not following commands and his GCS was 
estimated to be 8. He also was noted to have vomited multiple 
times both in the field and in the ER here. He was pan-scanned
per trauma protocol which did not reveal any significant 
injuries to other parts of his body on preliminary reports and 
then was taken emergently to the OR for washout and elevation of 
his open depressed skull fracture. 

 
Past Medical History:
None
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
On admission:

EXAM:
Gen: intubated, paralyzed
HEENT:large area of exposed skull Right Fronto-parietal c/w
degloving injury of the scalp Pupils: PERRL per ED prior to
paralysis        EOMs: unable to assess
Neck: hard cervical collar in place.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: paralyzed
Orientation: unable to obtain
Language: intubated and paralyzed

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm to
2mm bilaterally. Can not assess visual fields
III-XII: unable to ass given patients clinical status

Motor: Moves all extremities spontaneous per EMS report and ER
staff upon arrival prior to being paralyzed

Sensation: unable to ass given patients clinical status

At discharge: He has scalp sutures and staples. He has facial 
lacerations and lip edema with sutures. 
 
Pertinent Results:
___ Head CT:
Large right frontoparietal scalp subgaleal hematoma, 
subcutaneous locules of gas and laceration. There is an 
underlying comminuted, displaced and 
depressed fracture of the right frontoparietal bone, extending 
posteriorly to the lambdoid suture. There are hyperattenuating 
foci along the right frontal region, which may represent small 
contusions or foci of diffuse axonal injury (___). No evidence 
of shift of normally midline structures or central herniation at 
this time. 
  
NOTE ADDED IN ATTENDING REVIEW: There is also "contre-coup" 
subarachnoid 
hemorrhage in the contralateral sylvian fissure, as well as 
likely small 
contusion or focus ___ or less likely, subdural hemorrhage, 
in the 
periphery of the left frontal operculum, without significant 
mass effect. 

___ CT Torso:
Left lung base consolidation likely aspiration. No other injury 
to the chest, pelvis, or abdmomen noted.

___ CT Cspine:
1. No evidence of acute cervical spine fracture or alignment 
abnormality. 
2. NG tube appears coiled in the oral cavity and the upper 
thoracic esophagus  (as on the concurrent CECT torso); correlate 
clinically. 
  
___ CT head
1. Small hyperattenuating foci in the right frontal l.obe and 
"contre-coup" 
lesion in the left frontal operculum, representing contusion or 
___, are 
unchanged. Trace subarachnoid hemorrhage in the left Sylvian 
fissure is also stable. 
2. No mass effect or new hemorrhage identified. 
3. Stable large right frontoparietal subgaleal hematoma, status 
post operative repair of depressed skull fracture and scalp 
laceration.  

___ CXR
Left lower lobe consolidation has largely cleared since ___ consistent with resolved aspiration or pulmonary contusion. 
Lungs are fully expanded and clear. Normal cardiomediastinal and 
hilar silhouettes and pleural surfaces. 

___ C-spine flexion and extension imaging
 No radiographic evidence for dynamic instability

___ Chest x-ray
Right PIC C line ends in the right atrium. Suggest pulling back 
4 
cm. Otherwise, normal radiographic examination of the chest. 
  

 
Brief Hospital Course:
Mr. ___ was intubated in the ED for airway protection. He did 
have
multiple episodes of vomiting per report from EMT en route to 
the
hospital.  He had a ab/pelvis/chest CT per trauma protocol which 
did not reveal any significant abdominal injuries on preliminary 
reports but his left lung base had a
consolidation. He was taken directly to the OR from the ER for 
elevation of the skull fracture and washout of the wound. In the 
OR, wood was seen in the fracture cavity but no dural 
penetration. Pieces of the wood was sent for culture. He was 
then admitted to the neuro ICU for close monitoring. He was 
started on Vanc/Flagyl/Cetrax. MRSA screen is pending. Plastic 
surgery came and sutured his lip. Infectious disease was 
consulted and they recommended the Tdap vaccine. He remained 
intubated for his repeat Head CT. This showed post-op chnages 
and no new hemorrhage. He was extubated. On ___ he was 
transfered to the floor. His cervical spine was cleared by the 
ICU after Ct c-spine showed no fracture. 

His diet was advanced. He was voiding well. 

On ___ he reported neck pain. Flexion and extension X-rays 
showed no sign of instability. He was seen by ___ and OT. His 
surgical dressing was removed. Wound nurses did not feel that 
there was any special dressing needed. Plastic surgery requested 
bactitracin to facial lacerations as needed. ___ felt that he 
could beneift from home ___.

MRSA and blood culures were negative as of ___ and a PICC 
line was requested and placed. ID made new recommendations for 
cefepime 2Q12, Flagyl 500 TID x 10d. We got names from his PCP 
for ___ and Neurosurgery follow up. The Plastic surgeons do 
not take his insurance. The cost for suture removal was  relayed 
to the parents. They should go to their pediatrician for the 
sutures if they choose. 

 
Medications on Admission:
Unknown
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever/pain: max 400mg per day.  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. white petrolatum-mineral oil 56.8-42.5 % Ointment Sig: One 
(1) Appl Ophthalmic PRN (as needed) as needed for dry eyes.  
4. bacitracin 500 unit/g Ointment Sig: One (1) Appl Ophthalmic 
TID (3 times a day).  
5. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. phenytoin 50 mg Tablet, Chewable Sig: Two (2) Tablet, 
Chewable PO TID (3 times a day).  
7. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
8. Outpatient Physical Therapy
Eval and treat for Traumatic brain injury
9. cefepime 2 gram Recon Soln Sig: Two (2) grams Injection Q12H 
(every 12 hours): d/c 12.
Disp:*72 grams* Refills:*0*
10. metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 18 days.
Disp:*54 Tablet(s)* Refills:*0*
11. heparin, porcine (PF) 10 unit/mL Syringe Sig: Two (2) ML 
Intravenous PRN (as needed) as needed for line flush: Flush with 
10mL Normal Saline followed by Heparin as above daily and PRN 
per lumen. 
Order was filled by pharmacy with a dosage form of Syringe and a 
strength of 10 UNIT/ML .
Disp:*10 ML(s)* Refills:*6*
12. sodium chloride 0.9 % 0.9 % Piggyback Sig: Three (3) ML 
Intravenous Q12H (every 12 hours): before and after each abx 
dose.
Disp:*180 ML(s)* Refills:*2*
13. line care  Sig: One (1) treatment  weekly: Change dressing 
weekly and as needed.
Disp:*1 * Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Depressed comminuted skull fracture, SAH, SDH, cerebral 
contusion confirmed on CT head
Foreign body within fracture cavity confirmed on CT head
Aspiration pneumonia confirmed on CT chest

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Instructions

You need to see a Neurosurgeon near your home in 2weeks for a 
wound check (around ___. The staples and sutures should 
stay in place for 3 weeks (around ___. No resorbable 
sutures were used under the skin in case of infection. 
You should have a CT of the head +contrast in 4 weeks-the week 
after ___++
. 
Dr. ___ ___ is a Neurosurgeon in your area. We 
have faxed him your records and is will review them to decide if 
he can see you in your area.

You should see a Plastic surgeon in your area in 1 weeks to 
follow up on your facial lacerations. Dr. ___ ___ 
and Dr. ___ ___ are Plastic surgeons in your area. We 
called them and they only acccept medicaide or $200 out of 
pocket pay for suture removal. If this is a problem, please 
refer to your pediatrician for wound check and removal of 
remaining sutures in a week.

You should use an over the counter topical antibiotic cream to 
your facial lacerations as needed.

You and your family should have the flu vaccine in about ___ 
weeks.

•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Do not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, and Ibuprofen etc. 
•You have been prescribed Dilantin (Phenytoin) for anti-seizure 
medicine, take it as prescribed for 7 days. 
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

 
Followup Instructions:
___